US07981892B2
N-(1-(4-(4-Fluorophenyl)phthalazin-1-yl)piperidin-4-yl)benzamide hydrochloride
Combine 1-chloro-4-(4-fluorophenyl)phthalazine (150 mg, 0.58 mmol), N-(piperidin-4-yl)benzamide (178 mg, 0.87 mmol), triethylamine (0.404 mL, 2.9 mmol) and dimethylformamide (1 mL) at room temperature. Heat to 100° C. and stir overnight. Pour the crude reaction mixture onto a strong cation exchange Phenomenex Strata® SCX (55 μm, 70 Å) 10 g/60 mL column (with a benzene sulfonic acid functional group). Elute the desired product with 2 N methanolic ammonia (40 mL) and concentrate. Purify the residue by flash chromatography (20-30% [10% 2 N methanolic ammonia in ethyl acetate] in hexane). Add 1 N hydrochloric acid in diethyl ether to a solution of the isolated product in dichloromethane/methanol and remove the solvents under a stream of nitrogen gas to yield the title compound as a solid (137 mg, 51%). ES/MS m/z 427.2 (M+1).

reactant | 1-chloro-4-(4-fluorophenyl)phthalazine | 0.58 mmol, 150 mg | ClC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | N-(piperidin-4-yl)benzamide | 0.87 mmol, 178 mg | N1CCC(CC1)NC(C1=CC=CC=C1)=O | C12H16N2O
reactant | triethylamine | 2.9 mmol, 0.404 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(1-(4-(4-Fluorophenyl)phthalazin-1-yl)piperidin-4-yl)benzamide hydrochloride | 137 mg, 51% | Cl.FC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)N1CCC(CC1)NC(C1=CC=CC=C1)=O | InChI=1S/C26H23FN4O.ClH/c27-20-12-10-18(11-13-20)24-22-8-4-5-9-23(22)25(30-29-24)31-16-14-21(15-17-31)28-26(32)19-6-2-1-3-7-19;/h1-13,21H,14-17H2,(H,28,32);1H
